US04849422
Grams 32 of 1-(2,3-dihydroxypropyl)piperazine and 15.7 g of 2-chloronicotinic acid in 500 ml dioxane were refluxed for 8 hours. The reaction mixture was cooled, settled, the solvent separated and removed. The residue was triturated under heating with absolute ethanol and gave 16.2 g of 2-[4-(2,3-dihydroxypropyl)piperazin-1-yl]nicotinic acid melting at 210°-212° C. (with decomposition)

reactant | 1-(2,3-dihydroxypropyl)piperazine | OC(CN1CCNCC1)CO | C7H16N2O2
reactant | 2-chloronicotinic acid | 15.7 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | 2-[4-(2,3-dihydroxypropyl)piperazin-1-yl]nicotinic acid | 16.2 g | OC(CN1CCN(CC1)C1=C(C(=O)O)C=CC=N1)CO | C13H19N3O4
